US09029366B2
A solution of 2-(benzyloxy)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine (0.02 g, 0.087 mmol) in a DCM (1 mL) was treated with bromoacetyl bromide (7.6 μL, 17.6 mg, 0.087 mmol) at 0° C. The solvents were evaporated in vacuo to yield 1-(2-benzyloxy-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-2-bromo-ethanone as a white solid, that was used in the next step without further purification.

reactant | 2-(benzyloxy)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine | 0.087 mmol, 0.02 g | C(C1=CC=CC=C1)OC1=NN2C(CNCC2)=C1 | C13H15N3O
reactant | bromoacetyl bromide | 0.087 mmol, 7.6 μL, 17.6 mg | BrCC(=O)Br | C2H2Br2O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-benzyloxy-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-2-bromo-ethanone | C(C1=CC=CC=C1)OC1=NN2C(CN(CC2)C(CBr)=O)=C1 | C15H16BrN3O2
